US06124323
4-Phenoxy-1-[(4-fluorophenoxy)propyl]piperidine
A mixture of 4-phenoxypyridine and benzylbromide in acetone was stirred overnight at room temperature. After removal of the solvent, the residue was dissolved in methanol, cooled to -20° C. and treated portionwise with sodium borohydride, and warmed to 0° C. After a standard workup and purification, the resulting tetrahydropyridine adduct was dissolved in methanol and hydrogenated using 20% Pd-C as a catalyst to provide 4-phenoxypiperidine. A mixture of 4-phenoxypiperidine and 1-bromo-3-(4-fluorophenoxy)propane in acetone with excess potassium carbonate was heated at reflux for 12 hours to give the title compound.

reactant | 4-phenoxypiperidine | O(C1=CC=CC=C1)C1CCNCC1 | C11H15NO
reactant | 1-bromo-3-(4-fluorophenoxy)propane | BrCCCOC1=CC=C(C=C1)F | C9H10BrFO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-Phenoxy-1-[(4-fluorophenoxy)propyl]piperidine | O(C1=CC=CC=C1)C1CCN(CC1)CCCOC1=CC=C(C=C1)F | C20H24FNO2
